US03984405
A. 4-[2-(Dimethylamino) -(Dimethylamino)ethyl]-2H-1,4-benzothiazin-3(4H)-one
A mixture of 108 g of 1,4-benzothiazin-3(4H)-one in 650 ml of DMF is stirred and treated portionwise with 32.5 g of sodium hydride (50% dispersion) while maintaining the temperature below 50°. The solution is then heated to 70°, cooled to 25° and treated with 350 ml of 2.8 N toluene solution of 2-dimethylaminoethyl chloride and 6 g of sodium iodide. This mixture is heated at 100°-105° for 3 hours, cooled, poured into 2 liters of ice-water, and extracted with 500 ml of ether (three times). The organic phases are combined and extracted with a solution of 120 ml of concentrated HCl in 500 ml of water. The aqueous phase is cooled and treated portionwise with 240 g of K2CO3. The liberated base is extracted with 500 ml of ether (three times), the organic phases are combined, dried (MgSO4), filtered and the solvent evaporated. The residue is fractionated to give 103.5 g of colorless product; b.p. 146°-149° (0.2 mm).

reactant | 1,4-benzothiazin-3(4H)-one | 108 g | S1CC(NC2=C1C=CC=C2)=O | C8H7NOS
reactant | sodium hydride | 32.5 g | [H-].[Na+]
reactant | 2-dimethylaminoethyl chloride | CN(CCCl)C | C4H10ClN
reactant | sodium iodide | 6 g | [I-].[Na+]
reactant | DMF | 650 ml | CN(C)C=O | C3H7NO
solvent | toluene | 2.8 N, 350 ml | C1(=CC=CC=C1)C | C7H8
product | 4-[2-(Dimethylamino) -(Dimethylamino)ethyl]-2H-1,4-benzothiazin-3(4H)-one | 103.5 g | CN(C(CN1C(CSC2=C1C=CC=C2)=O)N(C)C)C | C14H21N3OS
